US07834007B2
N-(2-Bromo-6-fluorophenyl)pivalamide.
2-Bromo-6-fluoroaniline (43.2 mmol, 8.2 g) was dissolved in pyridine (124 mmol, 10 mL). Pivaloyl chloride (57.15 mmol, 7.0 mL) was added to the mixture. Reaction was stirred at room temperature for 3 hours. Reaction mixture was concentrated in vacuo. Residue was treated with ethyl acetate (50 mL). Mixture was washed 2×1N HCl, 1× brine. Organic layer was dried (magnesium sulfate), filtered and concentrated in vacuo. Residue was treated with hexanes and triturated. Resulting solids were filtered off, washed with hexanes then dried in vacuo. Title compound was obtained as white solid in 76% yield. 1H NMR (300 MHz, CDCl3): δ=7.39-7.31 (m, 1H), 7.14-7.03 (m, 2H), 6.98 (bs, 1H), 1.34 (s, 9H). MS m/e (M+H)+=274.1, 276.1.

reactant | 2-Bromo-6-fluoroaniline | 43.2 mmol, 8.2 g | BrC1=C(N)C(=CC=C1)F | C6H5BrFN
reactant | pyridine | 124 mmol, 10 mL | N1=CC=CC=C1 | C5H5N
reactant | Pivaloyl chloride | 57.15 mmol, 7.0 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
product | N-(2-Bromo-6-fluorophenyl)pivalamide | 76% yield | BrC1=C(C(=CC=C1)F)NC(C(C)(C)C)=O | C11H13BrFNO
